US07582761B2
(a) 5-Chloro-4-(trifluoromethyl)benzene-1,2-diamine
To a solution of 5-chloro-2-nitro-4-(trifluoromethyl)phenylamine (2 g, 8.3 mmol, Oakwood) in EtOAc (26 mL) and EtOH (13 mL) was added tin (II) chloride dihydrate (13.1 g, 45 mmol, Aldrich). The reaction mixture was stirred at 70° C. for 1 h. The light-yellow reaction solution was poured to crushed ice (50 mL) and carefully neutralized using saturated aqueous solution of NaHCO3. The resulting suspension was extracted with EtOAc (3×60 mL). The combined organic extracts were dried over MgSO4, filtered and the filtrate evaporatedcon in vacuo to give the title compound as white solid, which was used in the next step without additional purification. MS (ESI, pos. ion) m/z: 211.4 (M+1).

reactant | 5-chloro-2-nitro-4-(trifluoromethyl)phenylamine | 8.3 mmol, 2 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | tin (II) chloride dihydrate | 45 mmol, 13.1 g | O.O.[Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 26 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 13 mL | CCO | C2H6O
product | 5-Chloro-4-(trifluoromethyl)benzene-1,2-diamine | ClC1=C(C=C(C(=C1)N)N)C(F)(F)F | C7H6ClF3N2
